US08202868B2
a.1.1: Methyl-2-cyclobutanoyl-acetate
22 g of meldrum's acid (2,2-dimethyl-1,3-dioxane-4,6-dione) (152.7 mmol) and 36.9 ml of pyridine (457.2 mmol) were dissolved in 200 ml of dichloromethane. 18.1 g of cyclobutylcarbonic acid chloride were added at 0 to 10° C. The reaction mixture was stirred overnight at room temperature, washed with 1 N HCl and extracted with dichloromethane. The organic layer was washed with water, dried over magnesium sulfate, filtered, and then concentrated to dryness. The oily residue was dissolved in 300 ml of methanol and heated under reflux for 2 h. The reaction mixture was concentrated to dryness and the residue purified via silica gel chromatography with ethyl acetate as eluent. Yield: 21.2 g

reactant | meldrum's acid | 152.7 mmol, 22 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | pyridine | 457.2 mmol, 36.9 ml | N1=CC=CC=C1 | C5H5N
reactant | cyclobutylcarbonic acid chloride | 18.1 g | C1(CCC1)[ClH]C(=O)Cl | C5H8Cl2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Methyl-2-cyclobutanoyl-acetate | COC(CC(=O)C1CCC1)=O | C8H12O3
